US06297258B1
4-(2-Hydroxymethyl-piperidin-1-yl)-but-2-enoic Acid[4-(3-chloro-4-fluoro-phenylamino)-3-cyano-7-methoxy-quinolin-6-yl]-amide
By using the method of Example 89, 1.05 g (3.06 mmol) of 6-amino-4-(3-chloro-4-fluoro-phenylamino)-7-methoxy-quinoline-3-carbonitrile and 2.1 g (18.4 mmol) of 2-hydroxymethyl-piperidine were converted to 0.67 g the title compound. The free base was obtained as an off-white powder: mass spectrum (electrospray, m/e): M+H 524.3, (M+2H)+2267.7.

reactant | 6-amino-4-(3-chloro-4-fluoro-phenylamino)-7-methoxy-quinoline-3-carbonitrile | 3.06 mmol, 1.05 g | NC=1C=C2C(=C(C=NC2=CC1OC)C#N)NC1=CC(=C(C=C1)F)Cl | C17H12ClFN4O
reactant | 2-hydroxymethyl-piperidine | 18.4 mmol, 2.1 g | OCC1NCCCC1 | C6H13NO
product | 4-(2-Hydroxymethyl-piperidin-1-yl)-but-2-enoic Acid[4-(3-chloro-4-fluoro-phenylamino)-3-cyano-7-methoxy-quinolin-6-yl]-amide | 0.67 g | ClC=1C=C(C=CC1F)NC1=C(C=NC2=CC(=C(C=C12)NC(C=CCN1C(CCCC1)CO)=O)OC)C#N | C27H27ClFN5O3
